US06271249B1
5-(1H-Imidazol-1-yl)-2-methoxybenzenemethanol
5-(1H-Imidazol-1-yl)-2-methoxybenzoic acid, methyl ester (2 g, 8.6 mmol) was cooled to 0C in anhydrous THF under N2 and LiAlH4 was added. The reaction mixture stirred for 18 h at 24° C,. and water (0.7 ml) followed 15% sodium hydroxide solution (0.7 ml) and water (0.7 ml) was sequentially added dropwise. The resultant suspension was filtered and concentrated to give 1.3 g (74%); 1H NMR (300 MHz, DMSO-d6) δ 3.81(3H, s), 4.52 (2H, d, J=4.3 Hz), 5.18 (1H, br. s), 7.04 -7.06 (2H, m), 7.43 (1H, dd, J=8.7 Hz, 2.8 Hz), 7.52 (1H, d, J=2.8 Hz) 7.58 (1H, s), 8.07 (1H, s); MS(DCl)m/z: 205 (MH+).

reactant | 5-(1H-Imidazol-1-yl)-2-methoxybenzoic acid, methyl ester | 8.6 mmol, 2 g | N1(C=NC=C1)C=1C=CC(=C(C(=O)OC)C1)OC | C12H12N2O3
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 0.7 ml | O | H2O
reactant | sodium hydroxide | 0.7 ml | [OH-].[Na+]
reactant | water | 0.7 ml | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 5-(1H-Imidazol-1-yl)-2-methoxybenzenemethanol | N1(C=NC=C1)C=1C=CC(=C(C1)CO)OC | C11H12N2O2
